US20010014683A1
(i) Methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]amino}benzoate
This was prepared from 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol and methyl 4-aminobenzoate in 69% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol | COCO[C@@H]1CN(CC1)C[C@@H](O)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol | COCO[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | Methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]amino}benzoate | 69% yield | COCO[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)NC1=CC=C(C(=O)OC)C=C1 | C22H28N2O4
